US05559230
To a solution of 10% Pd-C (5 g) in ethanol (500 ml) is added 1-(4-nitrobenzoyl)-1,2,3,4-tetrahydroquinoline (53.4 g) and the mixture is subjected to catalytic reduction at ordinary temperature under atmospheric pressure of hydrogen. After the reduction, 10% Pd-C is removed by filtration, and the filtrate is concentrated under reduced pressure to give 1-(4-aminobenzoyl)-1,2,3,4-tetrahydroquinoline (46.7 g) as yellow powder, m.p. 185°-188° C.

reactant | 1-(4-nitrobenzoyl)-1,2,3,4-tetrahydroquinoline | 53.4 g | [N+](=O)([O-])C1=CC=C(C(=O)N2CCCC3=CC=CC=C23)C=C1 | C16H14N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | Pd-C | 5 g | [Pd] | Pd
product | 1-(4-aminobenzoyl)-1,2,3,4-tetrahydroquinoline | 46.7 g | NC1=CC=C(C(=O)N2CCCC3=CC=CC=C23)C=C1 | C16H16N2O
